US08614234B2
A mixture of 3-methyl-2-furoic acid (22 mg, 0.18 mmol), HATU (73 mg, 0.19 mmol) and N,N-diisopropylethylamine (45 mg, 0.35 mmol) in anhydrous DMF (10 ml) was stirred at room temperature for 10 minutes, followed by addition of methyl 5-(4-((3-aminophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate (50 mg, 0.16 mmol). The mixture was stirred at room temperature for 3 hours and poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give methyl 5-[4-({3-[(3-methyl-2-furoyl)amino]phenyl}amino)pyridin-2-yl]-1H-pyrrole-3-carboxylate as off-white solid. Yield: 10 mg, 15%.

reactant | 3-methyl-2-furoic acid | 0.18 mmol, 22 mg | CC1=C(OC=C1)C(=O)O | C6H6O3
reactant | HATU | 0.19 mmol, 73 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.35 mmol, 45 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 5-(4-((3-aminophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate | 0.16 mmol, 50 mg | NC=1C=C(C=CC1)NC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C17H16N4O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl 5-[4-({3-[(3-methyl-2-furoyl)amino]phenyl}amino)pyridin-2-yl]-1H-pyrrole-3-carboxylate | CC1=C(OC=C1)C(=O)NC=1C=C(C=CC1)NC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C23H20N4O4
